US08461157B2
To a solution of 4-bromobenzene-1,2-diamine (3 g, 16 mmol) in DMF (22 mL) were added trimethyl orthoformate (44 mL) and conc. HCl (1.5 mL) and the mixture was stirred at room temperature for 1 h. The mixture was diluted with water (200 mL) and adjusted to pH7 with saturated aqueous NaHCO3, extract with ethyl acetate (200 mL). The organic layer was dried over Na2SO4, concentrated to give 5-bromo-1H-benzo[d]imidazole (3.25 g, 100%) as an off-white solid. LCMS: 197 [M+1]+. 1H NMR (400 MHz, DMSO-d6) δ 7.33 (t, J=8.8 Hz, 1H), 7.55 (dd, J1=7.6 Hz, J=40 Hz, 1H), 7.79 (d, J=47.2 Hz, 1H), 8.26 (s, 1H), 12.61 (d, J=25.6 Hz, 1H).

reactant | 4-bromobenzene-1,2-diamine | 16 mmol, 3 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | trimethyl orthoformate | 44 mL | C(OC)(OC)OC | C4H10O3
reactant | HCl | 1.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 5-bromo-1H-benzo[d]imidazole | 3.25 g, 100% | BrC1=CC2=C(NC=N2)C=C1 | C7H5BrN2
